US05254565
A mixture of 4-(2-chlorophenyl)-6,8-dimethyl-3-quinolinecarbonitrile (0.5 g), 6N-sodium hydroxide (1.5 ml) and 2-methoxyethanol (3 ml) was refluxed under stirring for 8 hrs. The mixture was diluted with water and acidified with hydrochloric acid. The resultant precipitate was collected by filtration to give 4-(2-chlorophenyl)-6,8-dimethyl-2-quinolinecarboxylic acid (0.46 g, 86.8%), which was recrystallized from ethanol to give colorless prisms. m.p. 234°-235° C. This substance was identical with that obtained in Reference Example 33.

reactant | 4-(2-chlorophenyl)-6,8-dimethyl-3-quinolinecarbonitrile | 0.5 g | ClC1=C(C=CC=C1)C1=C(C=NC2=C(C=C(C=C12)C)C)C#N | C18H13ClN2
reactant | sodium hydroxide | 1.5 ml | [OH-].[Na+]
reactant | 2-methoxyethanol | 3 ml | COCCO | C3H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 4-(2-chlorophenyl)-6,8-dimethyl-2-quinolinecarboxylic acid | 0.46 g, 86.8% | ClC1=C(C=CC=C1)C1=CC(=NC2=C(C=C(C=C12)C)C)C(=O)O | C18H14ClNO2
